US03944560
A solution of 13.5 g. (208 millimoles) of potassium cyanide in 27 ml. of water is added dropwise to a mixture of 18.7 g. (114 millimoles) of 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin and 21.2 g. (208 millimoles) of acetic anhydride with stirring and cooling. The mixture is stirred at ambient temperature overnight and then is made alkaline with 10% sodium carbonate solution. The product in the form of an oil is extracted with diethyl ether, treated with charcoal and dried over calcium sulfate. Evaporation of the solvent gives a solid that is recrystallized from carbon tetrachloride to give 3-hydroxy-3-cyano-3,4-dihydro-2H-1,5-benzodioxepin as plates, m.p. 108.5°-110° C.

reactant | potassium cyanide | 208 millimoles | [C-]#N.[K+]
reactant | 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin | 114 millimoles | O=C1COC2=C(OC1)C=CC=C2 | C9H8O3
reactant | acetic anhydride | 208 millimoles | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-hydroxy-3-cyano-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC=C2)C#N | C10H9NO3
